US09315491B2
2-Ethoxy-malonic acid diethyl ester
A mixture of diethyl oxalate (39.23 ml, 1.12 eq.) and ethyl ethoxyacetate (34.95 ml, 1 eq.) was added dropwise to a slurry of sodium ethoxide (18.64 g, 1.07 eq.) in toluene (100 ml) at 45-50° C. After dropping, the resulting solution was heated to 70-80° C. for 2 hrs and poured into 70 ml of 14% HCl with cooling. The resultant mixture was extracted with EA and the combined organic layers were washed with brine and dried in vacuo to give 55.86 g (93.7%) of a product.

reactant | diethyl oxalate | 39.23 ml, 1.12 eq. | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ethyl ethoxyacetate | 34.95 ml, 1 eq. | C(C)OCC(=O)OCC | C6H12O3
reactant | sodium ethoxide | 18.64 g, 1.07 eq. | [O-]CC.[Na+]
reactant | HCl | 70 ml | Cl | ClH
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Ethoxy-malonic acid diethyl ester | 55.86 g, 93.7% | C(C)OC(C(C(=O)OCC)OCC)=O | C9H16O5
